US07557125B2
Preparation of (E)-N-Methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-(pyridin-3-yl)acrylamide
EDC (0.22 g, 1.14 mmole) was added to a solution of trans-3-3-pyridyl)acrylic acid (0.17 g, 1.14 mmole), 1-methyl-2-(methylaminomethyl)-1H-indole (0.20 g, 1.15 mmole), and HOBt.H2O (0.15 g, 1.11 mmole) in DMF (10 mL) at RT. The reaction was stirred overnight, then was concentrated in vacuo. The residue was diluted with 5% NaHCO3 and extracted with CH2Cl2. The combined organic extracts were washed with brine and dried over MgSO4. Flash chromatography on silica gel (3% MeOH/CH2Cl2) followed by preparative TLC (3% MeOH/CH2Cl2) gave the title compound (0.14 g, 40%) as a white solid: 1H NMR (360 MHz, CDCl3) indicated an approximately 8:1 mixture of amide rotamers; for the major rotamer: δ 8.79 (s, 1 H), 8.59 (d, J=3.9 Hz, 1 H), 7.84 (d, J=7.6 Hz, 1 H), 7.76 (d, J=15.5 Hz, 1 H), 7.59 (d, J=7.8 Hz, 1 H), 7.38-7.48 (m, 2 H), 7.19-7.27 (m, 1 H), 7.08-7.17 (m, 1 H), 6.98 (d, J=15.5 Hz, 1 H), 6.51 (s, 1 H), 4.94 (s, 2 H), 3.73 (s, 3 H), 3.09 (s, 3 H); MS (ES) m/e 306 (M+H)+. Anal. Calcd for C19H19N3O.0.20H2O: C, 73.86; H, 6.33; N, 13.60. Found: C, 73.52; H, 6.32; N, 13.43.

reactant | EDC | 1.14 mmole, 0.22 g
reactant | acrylic acid | 1.14 mmole, 0.17 g | C(C=C)(=O)O | C3H4O2
reactant | 1-methyl-2-(methylaminomethyl)-1H-indole | 1.15 mmole, 0.20 g | CN1C(=CC2=CC=CC=C12)CNC | C11H14N2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 1.11 mmole, 0.15 g | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (E)-N-Methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-(pyridin-3-yl)acrylamide | 0.14 g, 40% | CN(C(\C=C\C=1C=NC=CC1)=O)CC=1N(C2=CC=CC=C2C1)C | C19H19N3O
